US05149357
Under a nitrogen atmosphere, a solution of 5.7 grams (0.033 mole) of 6-chlorosalicylic acid in 200 mL of dimethylformamide was vigorously stirred, and 1.3 grams (0.033 mole) of 60% sodium hydride in mineral oil was added in one portion. Upon completion of addition, the reaction mixture was stirred for approximately 5 minutes until evolution of hydrogen gas had ceased. After this time 4.2 grams (0.033 mole) of benzyl chloride and 5.0 grams (0.033 mole) of sodium iodide were each added in one portion. Upon completion of addition, the reaction mixture was stirred at ambient temperature for about 30 hours. After this time the reaction mixture was poured into a mixture of 150 mL of aqueous 3N hydrochloric acid and 300 mL of an aqueous solution saturated with sodium chloride. The mixture was extracted with three 250 mL portions of diethyl ether. The ether extracts were combined, and the combination was washed with two 250 mL portions of an aqueous solution saturated with sodium chloride. The aqueous washes were combined and extracted with one 250 mL portion of ethyl acetate. The ethyl acetate extract was then washed with three 100 mL portions of an aqueous solution saturated with sodium chloride. The diethyl ether and ethyl acetate extracts were combined and were dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was adsorbed onto silica gel and was subjected to column chromatography. Elution was accomplished with 10% ethyl acetate in heptane. The appropriate fractions were combined and concentrated under reduced pressure to yield 5.5 grams of phenylmethyl 6-chlorosalicylate. The nmr spectrum was consistent with the proposed structure.

reactant | 6-chlorosalicylic acid | 0.033 mole, 5.7 grams | ClC=1C=CC=C(C1C(=O)O)O | C7H5ClO3
reactant | sodium hydride | 0.033 mole, 1.3 grams | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloride | 0.033 mole, 4.2 grams | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium iodide | 0.033 mole, 5.0 grams | [I-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | phenylmethyl 6-chlorosalicylate | 5.5 grams | ClC=1C=CC=C(C1C(=O)OCC1=CC=CC=C1)O | C14H11ClO3
